US06599917B1
a) 2-Methoxycarbonyl-3-thienyl Trifluoromethanesulfonate
A mixture of 4.12 g of 3-hydroxy-2-methoxycarbonylthiophene, 9.76 g of N-phenyltrifluoromethanesulfonimide, 5.44 ml of triethylamine, 318 mg of 4-dimethylaminopyridine and 70 ml of dichloromethane was stirred at room temperature overnight. Silica gel was added to the reaction solution, and the solvent was removed. The residue was subjected to silica gel column chromatography using 10% ethyl acetate/hexane, to give 6.21 g of the target compound.

reactant | 3-hydroxy-2-methoxycarbonylthiophene | 4.12 g | OC1=C(SC=C1)C(=O)OC | C6H6O3S
reactant | N-phenyltrifluoromethanesulfonimide | 9.76 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 5.44 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 318 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 2-Methoxycarbonyl-3-thienyl Trifluoromethanesulfonate | 6.21 g | FC(S(=O)(=O)OC1=C(SC=C1)C(=O)OC)(F)F | C7H5F3O5S2
